US09079853B2
5-chloro-3-hydroxy-3-((5-methoxypyridin-2-yl)methyl)-1-propylindolin-2-one
This compound was prepared in an analogous manner to 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one using 5-chloro-1-propylindoline-2,3-dione and 5-methoxy-2-methylpyridine. 1H-NMR δ 8.31 (s, 1H), 7.25 (m, 2H), 7.01 (d, 1H), 6.84 (s, 1H), 6.78 (m, 1H), 4.02 (bs, OH), 3.91 (s, 3H), 3.61 (m, 2H), 3.28 (d, 1H), 3.06 (d, 1H), 1.79 (m, 2H), 0.98 (t, 3H). Calculated mass for C18H19ClN2O3, 346.11. Observed, 347.1 (M+1).

reactant | 3-((3-bromopyridin-2-yl)methyl)-3-hydroxy-1-isopentyl-5-methylindolin-2-one | BrC=1C(=NC=CC1)CC1(C(N(C2=CC=C(C=C12)C)CCC(C)C)=O)O | C20H23BrN2O2
reactant | 5-chloro-1-propylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C11H10ClNO2
reactant | 5-methoxy-2-methylpyridine | COC=1C=CC(=NC1)C | C7H9NO
product | 5-chloro-3-hydroxy-3-((5-methoxypyridin-2-yl)methyl)-1-propylindolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)(CC1=NC=C(C=C1)OC)O | C18H19ClN2O3
